US08252875B2
Preparation of 1-{6-[1-(2,6-diethylphenylimino)-ethyl]pyridin-2-yl}ethanone
10.35 g of 2,6-diacetylpyridine (0.0634 mol), 7.10 g of 2,6-diethylaniline (0.0476 mol) and 2 ml of formic acid were stirred in 300 ml of heptane at room temperature for 71 h. The insoluble solid was filtered off (11.10 g) and dissolved in 150 ml of toluene and the solution was extracted with 10 ml of a saturated Na2CO3 solution. The toluene phase was dried over Na2SO4 and filtered and the solvent was distilled off in vacuo. 5.58 g (0.0198 mol) of the product were obtained in a purity of 99% (GC/MS) in a yield of 40%. The mother liquor of the reaction solution was freed completely from the solvent and the residue was recrystallized from hot heptane. 2.00 g (0.0068 mol) of the product were additionally obtained in a purity of 100% (GC/MS). The total yield was 54%.

reactant | 2,6-diacetylpyridine | 0.0634 mol, 10.35 g | C(C)(=O)C1=NC(=CC=C1)C(C)=O | C9H9NO2
reactant | 2,6-diethylaniline | 0.0476 mol, 7.10 g | C(C)C1=C(N)C(=CC=C1)CC | C10H15N
reactant | formic acid | 2 ml | C(=O)O | CH2O2
solvent | heptane | 300 ml | CCCCCCC | C7H16
product | 1-{6-[1-(2,6-diethylphenylimino)-ethyl]pyridin-2-yl}ethanone | 0.0198 mol, 5.58 g, yield of 40% | C(C)C1=C(C(=CC=C1)CC)N=C(C)C1=CC=CC(=N1)C(C)=O | C19H22N2O
